* source 2
D_Id         N00119 N00126 Dbreak 
V_Vs         N00119 0  AC 0
+SIN 0 5 60 0 0 0
C_C1         0 N00126  0.000143  TC=0,0 
R_Vout         0 N00126  5000 TC=0,0 
